US04777252
(C) [4,5-Bis(phenylmethoxy)-2-pyridinyl]carbamic acid, 1,1-dimethylethyl ester
To a suspension of 1.5 g (4.5 mmol) of 4,5-bis(phenylmethoxy)-2-pyridinecarboxylic acid in 25 ml of t-butanol were added 1.5 g (5.4 mmol) of diphenylphosphoryl azide and 0.54 g (5.4 mmol) of triethylamine. The mixture was stirred at 80° C. for 17 hours. After cooling to room temperature, the crystals were filtered off, washed with ether and dried in vacuo. Yield: 1.3 g. Concentration of the mother liquor yielded another 0.3 g of product. Total yield: 1.6 g; melting point 163.3° C.

reactant | 4,5-bis(phenylmethoxy)-2-pyridinecarboxylic acid | 4.5 mmol, 1.5 g | C1(=CC=CC=C1)COC1=CC(=NC=C1OCC1=CC=CC=C1)C(=O)O | C20H17NO4
reactant | diphenylphosphoryl azide | 5.4 mmol, 1.5 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 5.4 mmol, 0.54 g | C(C)N(CC)CC | C6H15N
reactant | t-butanol | 25 ml | C(C)(C)(C)O | C4H10O
product | [4,5-Bis(phenylmethoxy)-2-pyridinyl]carbamic acid, 1,1-dimethylethyl ester | 0.3 g | C1(=CC=CC=C1)COC1=CC(=NC=C1OCC1=CC=CC=C1)NC(OC(C)(C)C)=O | C24H26N2O4
